US04863920
6.08 g (22.8 mmol) of 7-chloro-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at 100° for 4 hours with 20 g (79.5 mmol) of iodine in 50 ml of N,N-dimethylformamide. The reaction mixture was evaporated, the residue was taken up in methylene chloride and water, decolorized with sodium thiosulphate and neutralized with sodium bicarbonate. The aqueous phase was separated and extracted four times with methylene chloride. The combined organic phases were dried over magnesium sulphate, evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate/hexane (1:1). There was obtained 7-chloro-8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 218°-219°.

reactant | 7-chloro-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 22.8 mmol, 6.08 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1)C)=O)F | C12H9ClFN3O
reactant | iodine | 79.5 mmol, 20 g | II | I2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-chloro-8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1I)C)=O)F | C12H8ClFIN3O
